US04946917
1,3-Diphenyl-2-(acrylamidomethyl)-propane-1,3-dione was prepared from 143 g of 1,3-diphenylpropane-1,3-dione and 64.8 g of N-methylolacrylamide similarly to the method described in Synthesis Example I.

reactant | 1,3-diphenylpropane-1,3-dione | 143 g | C1(=CC=CC=C1)C(CC(=O)C1=CC=CC=C1)=O | C15H12O2
reactant | N-methylolacrylamide | 64.8 g | C(O)NC(C=C)=O | C4H7NO2
product | 1,3-Diphenyl-2-(acrylamidomethyl)-propane-1,3-dione | C1(=CC=CC=C1)C(C(C(=O)C1=CC=CC=C1)CNC(C=C)=O)=O | C19H17NO3
